US07723378B2
To a cooled solution (−78° C.) of 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (2.00 g, 9.51 mmol) in THF (35 mL), tert.-butyllithium (16 mL, 1.5 M solution in pentane) is added. The mixture is stirred at −78° C. for 10 min before isopropyliodide (7.60 g, 48.7 mmol) is added. The reaction mixture is stirred at −78° C. for 3 h, then at rt for 3 d. The reaction mixture is diluted with water and extracted twice with EA. The combined organic extracts are dried over Na2SO4 and evaporated. The crude product is purified by CC on silica gel eluting with DCM/TBME 20:1 followed by prep. HPLC to give 3-isopropyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (500 mg) as a white solid; LC-MS: tR=1.04 min, [M+1+CH3CN]=294.16.

reactant | 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 9.51 mmol, 2.00 g | CC1(CC=2C(=C(SC2)C(=O)O)CC1)C | C11H14O2S
reactant | isopropyliodide | 48.7 mmol, 7.60 g | C(C)(C)I | C3H7I
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | tert.-butyllithium | 1.5 M, 16 mL | C(C)(C)(C)[Li]
solvent | water | O | H2O
product | 3-isopropyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 500 mg | C(C)(C)C1=C2C(=C(S1)C(=O)O)CCC(C2)(C)C | C14H20O2S
